US06900215B2
3-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]isonicotinamide (100 mg, 0.41 mmol) was coupled to 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (106 mg, 0.41 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 8% methanol then trituration with diethyl ether gave 3-{2-fluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]phenyl}isonicotinamide as a white solid: δH (400 MHz, CDCl3) 1.58 (6H, s), 4.42 (1H, s), 5.68 (1H, s), 5.82 (1H, s), 7.08 (1H, d, J 7), 7.36 (1H, t, J 7), 7.57-7.61 (3H, m), 7.86 (1H, s), 8.71 (1H, d, J 7), 8.74 (1H, s), 8.78 (1H, d, J 5); m/z (ES+) 392 (M++H).

reactant | 3-[5-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]isonicotinamide | 0.41 mmol, 100 mg | CC1(COB(OC1)C=1C=CC(=C(C1)C1=C(C(=O)N)C=CN=C1)F)C | C17H18BFN2O3
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 0.41 mmol, 106 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 3-{2-fluoro-5-[7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyrimidin-3-yl]phenyl}isonicotinamide | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=C(C(=O)N)C=CN=C2 | C21H18FN5O2
